US06881733B1
1-tert-butoxycarbonyl-3,3-dimethyl-4-trifluoromethanesulfonyloxy-1,2,3,6-tetrahydropyridine
Alternatively, the lithium diisopropylamide was generated in situ by reacting a solution of 0.86 μL (6.14 mMol) diisopropylamine in 10 mL tetrahydrofuran with 2.2 mL (5.5 mMol) n-butyllithium (2.5 M in hexanes). After cooling this solution to −78° C., a solution of 1.076 gm (4.73 mMol) 1-(tert-butoxycarbonyl)-3,3-dimethyl-4-oxopiperidine in 12 mL tetrahydrofuran was added dropwise, maintaining the reaction temperature below −70° C. After the addition was complete, the reaction mixture was stirred at −78° C. for 1 hour, and then a solution of 1.963 gm (5.00 mMol) 2-[N,N-bis(trifluoromethylsulfonyl)amino]-5-chloropyridine in 8 mL tetrahydrofuran was added over 5 minutes. The solution was allowed to warm to 0° C. and was stirred for 90 minutes. The reaction mixture was concentrated under reduced pressure and the residue was subjected to neutral alumina chromatography, eluting with 5:1 hexanes:ethyl acetate. The solvent was removed under reduced pressure to provide 1.566 gm (92.1%) of the title compound as a slightly yellow oil.

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | diisopropylamine | 6.14 mMol, 0.86 μL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 5.5 mMol, 2.5 M, 2.2 mL | C(CCC)[Li]
reactant | 1-(tert-butoxycarbonyl)-3,3-dimethyl-4-oxopiperidine | 4.73 mMol, 1.076 gm | C(C)(C)(C)OC(=O)N1CC(C(CC1)=O)(C)C | C12H21NO3
reactant | 2-[N,N-bis(trifluoromethylsulfonyl)amino]-5-chloropyridine | 5.00 mMol, 1.963 gm | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=NC=C(C=C1)Cl)(F)F | C7H3ClF6N2O4S2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | 1-tert-butoxycarbonyl-3,3-dimethyl-4-trifluoromethanesulfonyloxy-1,2,3,6-tetrahydropyridine | 1.566 gm, 92.1% | C(C)(C)(C)OC(=O)N1CC(C(=CC1)OS(=O)(=O)C(F)(F)F)(C)C | C13H20F3NO5S
